US07696234B2
[2,6-Difluoro-4(pyridin-2-ylmethoxy)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to Procedure F from 2,6-Difluoro-4-(pyridin-2-ylmethoxy)-benzoic acid methyl ester and 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (ES+) 416.2

reactant | 2,6-Difluoro-4-(pyridin-2-ylmethoxy)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1F)OCC1=NC=CC=C1)F)=O | C14H11F2NO3
reactant | 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
product | [2,6-Difluoro-4(pyridin-2-ylmethoxy)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | FC1=C(C(=CC(=C1)OCC1=NC=CC=C1)F)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C23H27F2N3O2
